US05508408
Example 34: 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
The title compound is prepared analogously to the compound described in Example 20 from 2,2-diethylsuccinic acid anhydride and 3-(7-fluoro-2-quinolinylmethoxy)aniline; colourless crystals of m.p. 166°-167°.

reactant | 2,2-diethylsuccinic acid anhydride | C(C)C1(C(=O)OC(C1)=O)CC | C8H12O3
reactant | 3-(7-fluoro-2-quinolinylmethoxy)aniline | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13FN2O
product | 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C24H25FN2O4
